US06861529B2
Step 1: 6-Benzyl-4-oxo-4,4a,5,6,7,7a,8,9-octahydro-1,6-diaza-cyclopenta[f]azulene-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
4-Oxo-7,8-dihydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (2.92 g, 9.15 mmol), LiF (296 mg, 11.4 mmol) and benzyl-methoxymethyl-trimethylsilanylmethyl-amine are mixed together in CH3CN (10 ml). The reaction mixture is sonicated under N2. The water bath is kept under 35° C. with ice. After 6 h, solvents are removed in vacuo. The residue is put on a column (1:1 EtOAc hexanes) to afford the title compound as clear oil, which solidified upon standing. 1H NMR (400 MHz, CDCl3) δ 1.23 (3H, t), 1.56 (9H, s), 1.88-2.00 (2H, m), 2.65 (1H, m), 2.92-3.02 (4H, m), 3.24 (1H, m), 3.50-3.59 (3H, m), 4.06 (1H, q), 4.19 (2H, q), 7.18-7.27 (5H, m), 7.62 (1H, s). MS (ES+) 453 (M+1) Step 2: 6-Benzyl4-oxo-4,4a,5,6,7,7a,8,9-octahydro-1H-1,6-diaza-cyclopenta[f]azulene-3-carboxylic acid pyridin-2-ylamide

reactant | 4-Oxo-7,8-dihydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 9.15 mmol, 2.92 g | C(C)OC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCC=CC2=O | C17H21NO5
reactant | LiF | 11.4 mmol, 296 mg | [Li+].[F-]
reactant | benzyl-methoxymethyl-trimethylsilanylmethyl-amine | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | water | O | H2O
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | 6-Benzyl-4-oxo-4,4a,5,6,7,7a,8,9-octahydro-1,6-diaza-cyclopenta[f]azulene-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C1=CN(C=2CCC3C(C(C12)=O)CN(C3)CC3=CC=CC=C3)C(=O)OC(C)(C)C | C26H32N2O5
